US07342012B2
(5S,7S)-5-(4-Bromobenzyl)-3-(3,5-dichlorophenyl)-7-acetoxy-1,3-diazabicyclo[3.3.0]octane-2,4-dione
To a solution of (5S,7R)-5-(4-bromobenzyl)-3-(3,5-dichlorophenyl)-7-hydroxy-1,3-diazabicyclo[3.3.0]octane-2,4-dione (0.21 g) in THF (5 mL) was added DEAD (0.09 mL), triphenylphosphine (0.15 g), and acetic acid (0.035 mL). After stirring overnight at room temperature, the mixture was concentrated. Purification by chromatography (Silica gel: 25% EtOAc/hexane, Chromatotron) afforded the titled compound (0.151 g). MS (m/z) 511 (MH+), mp 149.8° C.

reactant | (5S,7R)-5-(4-bromobenzyl)-3-(3,5-dichlorophenyl)-7-hydroxy-1,3-diazabicyclo[3.3.0]octane-2,4-dione | 0.21 g | BrC1=CC=C(C[C@@]23C(N(C(N3C[C@@H](C2)O)=O)C2=CC(=CC(=C2)Cl)Cl)=O)C=C1 | C19H15BrCl2N2O3
reactant | DEAD | 0.09 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 0.15 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | acetic acid | 0.035 mL | C(C)(=O)O | C2H4O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (5S,7S)-5-(4-Bromobenzyl)-3-(3,5-dichlorophenyl)-7-acetoxy-1,3-diazabicyclo[3.3.0]octane-2,4-dione | 0.151 g | BrC1=CC=C(C[C@@]23C(N(C(N3C[C@H](C2)OC(C)=O)=O)C2=CC(=CC(=C2)Cl)Cl)=O)C=C1 | C21H17BrCl2N2O4
